US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (47 mg) was reacted with 2-(4-iodophenoxy)-4,6-dimethylpyrimidine (56 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(4,6-dimethylpyrimidin-2-yloxy)phenyl]pent-4-enoic acid methyl ester (44 mg). Column chromatography (silica gel, eluent: hexane/ethyl acetate=2/1) was used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 47 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | 2-(4-iodophenoxy)-4,6-dimethylpyrimidine | 56 mg | IC1=CC=C(OC2=NC(=CC(=N2)C)C)C=C1 | C12H11IN2O
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(4,6-dimethylpyrimidin-2-yloxy)phenyl]pent-4-enoic acid methyl ester | 44 mg | COC(C(C\C=C\C1=CC=C(C=C1)OC1=NC(=CC(=N1)C)C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C25H23Cl2N3O4
